US09034900B2
Step 1: 2-(2-cyclopropylethynyl)-5-methylsulfonylaniline
bromo-4-methylsulfonyl-2-nitrobenzene (1.5 g, 5.36 mmol), ethynylcyclopropane (0.7 g, 10.72 mmol), K2CO3 (1.5 g, 10.72 mmol) in CH3CN (30 ml), Pd(ACN)2Cl2 (55.5 mg, 0.21 mmol) and X-phos (128 mg, 0.27 mmol) under N2 were heated at 45° C. for 3 h. EA extractive work up and preparative TLC (PE:EtOAc=5:1) gave the title compound (1.2 g).

reactant | bromo-4-methylsulfonyl-2-nitrobenzene | 5.36 mmol, 1.5 g | BrC1=C(C=C(C=C1)S(=O)(=O)C)[N+](=O)[O-] | C7H6BrNO4S
reactant | ethynylcyclopropane | 10.72 mmol, 0.7 g | C(#C)C1CC1 | C5H6
reactant | K2CO3 | 10.72 mmol, 1.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | EA | CC(OCC)=O | C4H8O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH3CN | 30 ml | CC#N | C2H3N
catalyst | X-phos | 0.27 mmol, 128 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
product | 2-(2-cyclopropylethynyl)-5-methylsulfonylaniline | 1.2 g | C1(CC1)C#CC1=C(N)C=C(C=C1)S(=O)(=O)C | C12H13NO2S
